US05112998
The procedure of Example 26 was repeated except that 0.426 g (1.0 mmole) of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxypregna-4,6-dien-3-one was used in lieu of 0.410 g of 20-(5,5-dimethyl-1,3-dioxan-2-yl)pregna-1,4,6-trien-3-one to give 0.205 g of 1α, 2α-epoxy-3-oxopregna-4,6-diene-20-carbaldehyde (yield: 60%).

reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxypregna-4,6-dien-3-one | 1.0 mmole, 0.426 g | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2[C@@H]3C=CC4=CC([C@H]5[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O5)=O)C | C27H38O4
reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)pregna-1,4,6-trien-3-one | 0.410 g | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2[C@@H]3C=CC4=CC(C=C[C@]4(C)[C@H]3CC[C@]12C)=O)C | C27H38O3
product | 1α, 2α-epoxy-3-oxopregna-4,6-diene-20-carbaldehyde | 0.205 g, yield: 60% | O1[C@H]2[C@@H]1C(C=C1C=C[C@H]3[C@@H]4CC[C@H](C(C)C=O)[C@]4(CC[C@@H]3[C@@]21C)C)=O | C22H28O3
